US04748272
2-(2-n-propyl-3-hydroxy-4-acetylphenoxy)-2-(3,4-dichlorophenyl)acetic acid
A mixture of 4.8 g of Ethyl 2-(2-n-propyl-3-hydroxy-4-acetylphenoxy)-2-(3,4-dichlorophenyl)acetate in 100 ml of dioxane and 15 ml of concentrated hydrochloric acid was refluxed for 70 hours. The reaction mixture was then cooled, concentrated in vacuum to give 2.9 g of the crude solid, which was crystallized from hexane to give 1.8 g of pure product, melting point 177°-180° C.

reactant | Ethyl 2-(2-n-propyl-3-hydroxy-4-acetylphenoxy)-2-(3,4-dichlorophenyl)acetate | 4.8 g | C(CC)C1=C(OC(C(=O)OCC)C2=CC(=C(C=C2)Cl)Cl)C=CC(=C1O)C(C)=O | C21H22Cl2O5
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 15 ml | Cl | ClH
product | 2-(2-n-propyl-3-hydroxy-4-acetylphenoxy)-2-(3,4-dichlorophenyl)acetic acid | 1.8 g | C(CC)C1=C(OC(C(=O)O)C2=CC(=C(C=C2)Cl)Cl)C=CC(=C1O)C(C)=O | C19H18Cl2O5
